US07060827B2
A suspension of N′1-(3-chlorobenzoyl)-3-nitrobenzene-1-carbohydrazide (0.321 g) in POCl3 (3 mL) was stirred at 90° C. for 24 h. The resulting clear solution was quenched with ice-water, solid obtained was filtered washed with water, dried and analyzed to give [2-(3-chlorophenyl)-1,3,4-oxadiazol-5-yl]-3-nitrobenzene. 1H NMR (DMSO-d6): δ 8.86 (t, 1H, J=1.8 Hz), 8.59 (dt, 1H, J=1.8 and 8.4 Hz), 8.48 (m, 1H), 8.25 (t, 1H, J=1.8 Hz), 8.16 (dt, 1H, J=1.2 and 7.5 Hz), 7.93 (t, 1H, J=8.1 Hz), 7.75 (m, 1H), 7.66 (t, 1H, J=7.5 Hz), LCMS: purity: 86%; MS (m/e): 302 (MH+).

reactant | N′1-(3-chlorobenzoyl)-3-nitrobenzene-1-carbohydrazide | 0.321 g | ClC=1C=C(C(=O)NNC(=O)C2=CC(=CC=C2)[N+](=O)[O-])C=CC1 | C14H10ClN3O4
solvent | POCl3 | 3 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | [2-(3-chlorophenyl)-1,3,4-oxadiazol-5-yl]-3-nitrobenzene | ClC=1C=C(C=CC1)C=1OC(=NN1)C1=CC(=CC=C1)[N+](=O)[O-] | C14H8ClN3O3
